US05242930
b) 2-[(2-Chlorophenyl)phenylmethyl]-1-azabicyclo[2.2.2]octan-3-one
2-(2-Chlorobenzylidene)-1-azabicyclo[2.2.2]octan-3-one (3 g) was dissolved in toluene (30 ml) and placed in a dropping funnel. Phenylmagnesium bromide was dissolved in toluene (15 ml) and stirred under nitrogen. This was cooled in an ice/water bath and the benzylidene solution was added dropwise. After 3 hrs the reaction was quenched with ammonium chloride solution and the aqueous layer extracted with dichloromethane (×4); this was combined with the original toluene layer and dried (MgSO4). The solvent was removed in vacuo and the residue purified by chromatography on silica eluting with 1:1 hexane:diethyl ether which afforded the title compound as a 2:1 mixture of its diastereoisomers:

reactant | 2-(2-Chlorobenzylidene)-1-azabicyclo[2.2.2]octan-3-one | 3 g | ClC1=C(C=C2N3CCC(C2=O)CC3)C=CC=C1 | C14H14ClNO
reactant | Phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-Chlorophenyl)phenylmethyl]-1-azabicyclo[2.2.2]octan-3-one | ClC1=C(C=CC=C1)C(C1N2CCC(C1=O)CC2)C2=CC=CC=C2 | C20H20ClNO
